US07544699B2
6-Methoxy-3-oxo-3,4-dihydro-quinoxaline-2-carboxylic acid ethyl ester (5.2 g, 20.9 mmol) was suspended in 75 mL of POCl3 and resulting mixture heated to 100° C. for 1 h. The reaction mixture was poured onto 500 mL of ice-water and the pH of the solution adjusted to 3 with conc. NH4OH. Mixture was extracted twice with 300 mL of EtOAc. The combined organic layers were dried over Na2SO4 and evaporated to give the 3-chloro-6-methoxy-quinoxaline-2-carboxylic acid ethyl ester (4.6 g).

reactant | 6-Methoxy-3-oxo-3,4-dihydro-quinoxaline-2-carboxylic acid ethyl ester | 20.9 mmol, 5.2 g | C(C)OC(=O)C1=NC2=CC=C(C=C2NC1=O)OC | C12H12N2O4
reactant | NH4OH | [NH4+].[OH-]
reactant | POCl3 | 75 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 3-chloro-6-methoxy-quinoxaline-2-carboxylic acid ethyl ester | 4.6 g | C(C)OC(=O)C1=NC2=CC=C(C=C2N=C1Cl)OC | C12H11ClN2O3
